US08232267B2
2-methoxyethylamine (3.73 g, 0.0496 mol) was dissolved in dichloromethane (250 ml) and cooled to 0° C. Bromoacetyl bromide (2.16 ml, 0.0248 mol) was added dropwise, and the reaction was stirred overnight at room temperature. The reaction mixture was then washed with water (100 ml) and saturated aqueous sodium chloride (2×100 ml). The organic layer was separated and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to afford 2-bromo-N-(2-methoxyethyl)acetamide as a white solid in 75% yield.

reactant | 2-methoxyethylamine | 0.0496 mol, 3.73 g | COCCN | C3H9NO
reactant | Bromoacetyl bromide | 0.0248 mol, 2.16 ml | BrCC(=O)Br | C2H2Br2O
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 2-bromo-N-(2-methoxyethyl)acetamide | 75% yield | BrCC(=O)NCCOC | C5H10BrNO2
